US04032573
To a solution of 1.5 g of 3-bromo-2'-acetyl-6'-methylpropionanilide in 20 ml of benzene was added 0.8 g of diethylamine at room temperature. The resultant mixture was stirred at room temperature for 24 hours. The reaction mixture was washed with water, dried over anhydrous sodium sulfate and evaporated to give an oily residue. The residue was dissolved in ether and hydrogen chloride was added to the solution to give crystals. Recrystallization from ethanol gave 3-(diethylamino)-2'-acetyl-6'-methylpropionanilide hydrochloride having a melting point of 124° to 126° C.

reactant | 3-bromo-2'-acetyl-6'-methylpropionanilide | 1.5 g | BrCCC(=O)NC1=C(C=CC=C1C)C(C)=O | C12H14BrNO2
reactant | diethylamine | 0.8 g | C(C)NCC | C4H11N
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 3-(diethylamino)-2'-acetyl-6'-methylpropionanilide hydrochloride | Cl.C(C)N(CCC(=O)NC1=C(C=CC=C1C)C(C)=O)CC | InChI=1S/C16H24N2O2.ClH/c1-5-18(6-2)11-10-15(20)17-16-12(3)8-7-9-14(16)13(4)19;/h7-9H,5-6,10-11H2,1-4H3,(H,17,20);1H
